US07361763B2
2.82 g (9.75 mmol) of 4-(5-bromo-1H-pyrrolo[2,3-b]pyridine-3-yl)-phenol and 3.10 g of para-toluenesulfonyl chloride were dispersed in 400 ml of toluene at 45° C. 45 ml of 50% aqueous solution of KOH and 1.5 ml of 40% aqueous solution of tetra-n-butylammonium hydroxide were added and the resulting mixture stirred vigorously at ambient temperature for 6 h. The resulting mixture was diluted with 100 ml of a saturated aqueous solution of sodium bromide, the phases separated and the aqueous layer extracted three times with toluene. The combined organic phases were washed with a 2 M aqueous solution of sodium hydroxide, dried over sodium sulfate and evaporated. The crude was crystallized from ethanol containing 10% v/v of toluene to afford 3.22 g (5.29 mmol, 55% yield) of toluene-4-sulfonic acid 4-[5-bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-phenyl ester as ivory crystalline needles.

reactant | 4-(5-bromo-1H-pyrrolo[2,3-b]pyridine-3-yl)-phenol | 9.75 mmol, 2.82 g | BrC=1C=C2C(=NC1)NC=C2C2=CC=C(C=C2)O | C13H9BrN2O
reactant | para-toluenesulfonyl chloride | 3.10 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | KOH | [OH-].[K+]
reactant | tetra-n-butylammonium hydroxide | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium bromide | [Br-].[Na+]
product | toluene-4-sulfonic acid 4-[5-bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-phenyl ester | 5.29 mmol, 3.22 g, 55% yield | BrC=1C=C2C(=NC1)N(C=C2C2=CC=C(C=C2)OS(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H21BrN2O5S2
